US08080563B2
A solution of methyl 2-acetamido-3-(cyclopentyloxy)-4-methoxybenzoate (6.42 g, 20.9 mmol) and anhydrous THF (60 mL) was added via syringe pump (1 mL/min) to a solution of KHMDS (150 mL, 0.5M PhMe, 75 mmol) at −78° C. under N2. The reaction was allowed to slowly warm to rt as the bath expired overnight. After 17 h, the reaction was poured into ice/water (250 mL), let stir for 10 min, and the layers were separated. The aqueous was washed with ether (150 mL), acidified with conc. HCl (7 mL), and filtered to give 8-(cyclopentyloxy)-4-hydroxy-7-methoxyquinolin-2(1H)-one: MS (ESI): 276.0.

reactant | methyl 2-acetamido-3-(cyclopentyloxy)-4-methoxybenzoate | 20.9 mmol, 6.42 g | C(C)(=O)NC1=C(C(=O)OC)C=CC(=C1OC1CCCC1)OC | C16H21NO5
reactant | KHMDS | 75 mmol, 0.5M, 150 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 8-(cyclopentyloxy)-4-hydroxy-7-methoxyquinolin-2(1H)-one | C1(CCCC1)OC=1C(=CC=C2C(=CC(NC12)=O)O)OC | C15H17NO4
